US08623889B2
Step 4: (1S,2S)—N-(7-(6-(2,2-difluoro-1-hydroxyethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)-2-fluorocyclopropanecarboxamide
A mixture of (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide (53 mg; 0.1488 mmol), 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanamine (32 mg; 0.11893 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (8.2 mg; 0.012 mmol), potassium carbonate (51.3 mg; 0.371 mmol), dioxane (1.5 mL; 18 mmol), and water (0.2 mL; 10 mmol) was subjected to microwave irradiation at 110° C. for 30 minutes. LCMS analysis indicated complete conversion to the corresponding 2,2,2-trifluoro-1-imino-ethyl product instead of the expected 2,2,2-trifluoro-2-aminoethyl product. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated. The resulting residue was taken up in 5 mL methanol and treated with sodium borohydride (17 mg; 0.444854 mmol) and stirred at room temperature for 2 hours. The reaction mixture was partitioned between water and ethyl acetate, and the organic layer washed with brine, dried over magnesium sulfate, and concentrated. The crude product was purified and the preparatory SFC to yield 13.4 mg (28%) of the title compound, presumably due to aqueous hydrolysis of the imine to the ketone, followed by reduction to produce the 2,2-difluoro-1-hydroxy-ethyl product. LCMS (ESI): RT (min)=3.589, M+H=402.2, method=E; 1H NMR (400 MHz, DMSO) δ 10.98 (s, 1H), 9.20 (s, 1H), 8.53 (s, 1H), 8.48 (s, 1H), 8.11 (s, 1H), 7.99 (d, J=8.6 Hz, 1H), 7.77 (d, J=8.5 Hz, 1H), 7.55 (s, 1H), 6.36 (d, J=5.4 Hz, 1H), 6.29 (t of d, d J=3.2 Hz, 1H), 5.06-4.83 (m, 2H), 2.36 (s, 3H), 2.29 (m, 1H), 1.70 (ddd, J=23.3, 10.5, 6.8 Hz, 1H), 1.29-1.12 (m, 1H).

reactant | (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.1488 mmol, 53 mg | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C19H22BFN2O3
reactant | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanamine | 0.11893 mmol, 32 mg | BrC=1C(=CC(=NC1)C(C(F)(F)F)N)C | C8H8BrF3N2
reactant | potassium carbonate | 0.371 mmol, 51.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 18 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
reactant | water | 10 mmol, 0.2 mL | O | H2O
reactant | sodium borohydride | 0.444854 mmol, 17 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.012 mmol, 8.2 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (1S,2S)—N-(7-(6-(2,2-difluoro-1-hydroxyethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)-2-fluorocyclopropanecarboxamide | 13.4 mg, 28% | FC(C(O)C1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)[C@H]1[C@H](C1)F)C)F | C21H18F3N3O2
